US08017630B2
2-(4-Dimethylamino-4-phenylcyclohexyl)-N-[2-(1H-indol-3-yl)-1-methylethyl]acetamide hydrochloride (Example 41)
Ethyl methyl ketone (55 ml) was added to a mixture of 2-(4-dimethylamino-4-phenylcyclohexyl)-N-[2-(1H-indol-3-yl)-1-methylethyl]acetamide with dicyclohexylurea (939 mg) and the mixture was heated to 40° C. and filtered. The acetamide thereby remained as a colourless solid (327 mg, 0.78 mmol) with an m.p. of 198-200° C. It was dissolved in ethanol (20 ml), and 5 M propanolic hydrochloric acid (0.22 ml, 1.11 mmol) was added. After 2 h the reaction mixture was concentrated to 2 ml, ether (50 ml) was added and the mixture was stirred at RT for 1 h. It was possible to isolate the product as a colourless solid with an m.p. of 150-155° C. in a yield of 33% (338 mg).

reactant | Ethyl methyl ketone | 55 ml | CC(=O)CC | C4H8O
reactant | 2-(4-dimethylamino-4-phenylcyclohexyl)-N-[2-(1H-indol-3-yl)-1-methylethyl]acetamide | CN(C1(CCC(CC1)CC(=O)NC(CC1=CNC2=CC=CC=C12)C)C1=CC=CC=C1)C | C27H35N3O
reactant | dicyclohexylurea | 939 mg | C(=O)(NC1CCCCC1)NC1CCCCC1 | C13H24N2O
reactant | hydrochloric acid | 1.11 mmol, 5 M, 0.22 ml | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-(4-Dimethylamino-4-phenylcyclohexyl)-N-[2-(1H-indol-3-yl)-1-methylethyl]acetamide hydrochloride | yield of 33% | Cl.CN(C1(CCC(CC1)CC(=O)NC(CC1=CNC2=CC=CC=C12)C)C1=CC=CC=C1)C | InChI=1S/C27H35N3O.ClH/c1-20(17-22-19-28-25-12-8-7-11-24(22)25)29-26(31)18-21-13-15-27(16-14-21,30(2)3)23-9-5-4-6-10-23;/h4-12,19-21,28H,13-18H2,1-3H3,(H,29,31);1H
